US07781192B2
The resultant solution of free pantothenic acid is according to the invention set to a pH of 3-10 by adding calcium base and/or magnesium base. A pH of 5-10 is advantageous. Preferably, the solution is set to a pH of 5-9, particularly preferably 6-9, and very particularly preferably 6-8. In this manner a solution or suspension of calcium pantothenate and/or magnesium pantothenate is obtained. Preferably, for neutralization, calcium hydroxide, calcium carbonate, calcium oxide, magnesium hydroxide and/or basic magnesium carbonate is added to the solution in the form of a solid and/or as aqueous suspension.

reactant | pantothenic acid | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)O | C9H17NO5
reactant | calcium | [Ca] | Ca
reactant | magnesium | [Mg] | Mg
reactant | calcium pantothenate | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-].[Ca+2].C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-]
product | magnesium pantothenate | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-].[Mg+2].C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-] | InChI=1S/2C9H17NO5.Mg/c2*1-9(2,5-11)7(14)8(15)10-4-3-6(12)13;/h2*7,11,14H,3-5H2,1-2H3,(H,10,15)(H,12,13);/q;;+2/p-2/t2*7-;/m00./s1
